US05622951
1-(2-Methoxyphenyl)-4-[1-(3,5-dimethylpyridin-2-yl)-cyclohex-1-en-4-yl]piperazine
Methyloxalyl chloride (0.35 ml) was added to a mixture of 1-(2-methoxyphenyl)-4-[1-hydroxy-1(3,5-dimethylpyridin-2-yl)-cyclohex-4-yl]piperazine (0.7 g, 1.8 mmol) and imidazole (0.25 g) in THF (15 ml) at reflux. Heating was continued overnight when the solvent was evaporated in vacuo and replaced with toluene (15 ml). The mixture was heated under reflux overnight, then, when cool, added to dilute NaOH (aq) and extracted by ether (3×50 ml). The combined organic extracts were washed with brine (50 ml) and water (50 ml), dried over magnesium sulphate and evaporated to dryness. The crude product was chromatographed (SiO2, 2% methanol in dichloromethane) giving the title compound (0.42 g) which was recrystallised from hexane then treated with ethanolic HCl to give the title compound as the trihydrochloride 2.25 hydrate, m.p. 235°-236° C.

reactant | 1-(2-methoxyphenyl)-4-[1-hydroxy-1(3,5-dimethylpyridin-2-yl)-cyclohex-4-yl]piperazine | 1.8 mmol, 0.7 g | COC1=C(C=CC=C1)N1CCN(CC1)C1CCC(CC1)(C1=NC=C(C=C1C)C)O | C24H33N3O2
reactant | imidazole | 0.25 g | N1C=NC=C1 | C3H4N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-(2-Methoxyphenyl)-4-[1-(3,5-dimethylpyridin-2-yl)-cyclohex-1-en-4-yl]piperazine | 0.42 g | COC1=C(C=CC=C1)N1CCN(CC1)C1CC=C(CC1)C1=NC=C(C=C1C)C | C24H31N3O
